US04360530
2.6 g of 2,2-dimethyl-3-phenyl-2H-azirine and 2,5 g of 3,5-dimethyl-4-(dimethylamino)benzaldehyde were exposed to light for 2 hours in 300 ml of 1,4-dioxane (with the light source described in Example 2). After purification as described in Example 12 and crystallization from n-pentane, there was obtained 5-[4-dimethylamino)-3,5-xylyl]-2,2-dimethyl-4-phenyl-3-oxazoline which melted at 91°-92° C. after drying for 2 hours at 50° C. and 13 Torr.

reactant | 2,2-dimethyl-3-phenyl-2H-azirine | 2.6 g | CC1(N=C1C1=CC=CC=C1)C | C10H11N
reactant | 3,5-dimethyl-4-(dimethylamino)benzaldehyde | 2,5 g | CC=1C=C(C=O)C=C(C1N(C)C)C | C11H15NO
solvent | 1,4-dioxane | 300 ml | O1CCOCC1 | C4H8O2
product | 2,2-dimethyl-4-phenyl-3-oxazoline | CC1(OCC(=N1)C1=CC=CC=C1)C | C11H13NO
